US06911468B2
(1) (2R)-2-([4-[1-(4-Pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoic acid
To a mixed solution of ethyl (2R)-2-([4-[1-(4-pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoate (660 mg, 1.26 mmol) in THF (15 ml) and methanol (7 ml) was added 1N aqueous potassium hydroxide (4.0 ml, 4.0 mmol) and the mixture was stirred for 1 hour at room temperature. The reaction solution was neutralized with 1N hydrochloric acid, extracted with ethyl acetate, washed with saturated brine and dried over magnesium sulfate anhydride. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate) to give the object compound as an oily substance. 615 mg, (yield 98%)

reactant | ethyl (2R)-2-([4-[1-(4-pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoate | 1.26 mmol, 660 mg | C(CCCC)C1=CC=C(C=C1)CCN1C(=CC=C1C)C1=CC=C(C=C1)O[C@@H](C(=O)OCC)CC1=CC=CC=C1 | C35H41NO3
reactant | potassium hydroxide | 4.0 mmol, 1N, 4.0 ml | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | methanol | 7 ml | CO | CH4O
product | (2R)-2-([4-[1-(4-Pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoic acid | yield 98% | C(CCCC)C1=CC=C(C=C1)CCN1C(=CC=C1C)C1=CC=C(C=C1)O[C@@H](C(=O)O)CC1=CC=CC=C1 | C33H37NO3
